US04532240
5-[4-(4-Chlorophenyl)-1-piperazinyl]-6-methyl-2,4-(1H, 3H)-pyrimidinedione
A mixture of 20.50 g (0.100 mole) of 5-bromo-6-methyl-2,4(1H, 3H)pyrimidinedione, 26.96 g (0.100 mole of 1-(4-chlorophenyl)-piperazine, 10.35 g (0.110 mole) of potassium fluoride dihydrate and 41.40 g (0.300 mole) of potassium carbonate in 200 ml of dimethylsulfoxide was heated at 80° for 72 hours. The reaction mixture was cooled and poured into 1 l of ice water. The solid was collected, washed with water, and recrystallized from ethanol to give 6.05 g of the product as a dull yellow solid.

reactant | 5-bromo-6-methyl-2,4(1H, 3H)pyrimidinedione | 0.100 mole, 20.50 g | BrC=1C(NC(NC1C)=O)=O | C5H5BrN2O2
reactant | 1-(4-chlorophenyl)-piperazine | 0.100 mole | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | potassium fluoride dihydrate | 0.110 mole, 10.35 g | O.O.[F-].[K+]
reactant | potassium carbonate | 0.300 mole, 41.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 5-[4-(4-Chlorophenyl)-1-piperazinyl]-6-methyl-2,4-(1H, 3H)-pyrimidinedione | 6.05 g | ClC1=CC=C(C=C1)N1CCN(CC1)C=1C(NC(NC1C)=O)=O | C15H17ClN4O2
